US08455488B2
Synthesis of (S)-2-(1-allyl-2-(1-phenylethylcarbamoyl)hydrazinyl)acetic acid (Compound VI-5)
According to the procedure described in the synthesis method of Compound VI-2 with the modification that the reaction was carried out for 2 hours, (S)-ethyl 2-(1-allyl-2-(1-phenylethylcarbamoyl)hydrazinyl)acetate (Compound V-4) 183 mg (0.6 mmol) was reacted with lithium hydroxide monohydrate 30 mg (0.72 mmol) to obtain the title compound 157 mg (94%).

reactant | (S)-ethyl 2-(1-allyl-2-(1-phenylethylcarbamoyl)hydrazinyl)acetate | 0.6 mmol, 183 mg | C(C=C)N(NC(N[C@@H](C)C1=CC=CC=C1)=O)CC(=O)OCC | C16H23N3O3
reactant | lithium hydroxide monohydrate | 0.72 mmol, 30 mg | O.[OH-].[Li+]
product | (S)-2-(1-allyl-2-(1-phenylethylcarbamoyl)hydrazinyl)acetic acid | 157 mg, 94% | C(C=C)N(NC(N[C@@H](C)C1=CC=CC=C1)=O)CC(=O)O | C14H19N3O3
